US05723497
A 500-ml flask equipped with a stirrer was charged with 23.8 g (0.12 mol) of 1-tridecen-3-ol, 25.0 g (0.145 mol) of m-chloroperbenzoic acid and 250 ml of benzene, and the contents were stirred at room temperature for 48 hours. After completion of the reaction, 200 ml of hexane. Solids deposited were separated by filtration, and the solvent was distilled off under reduced pressure. The resultant residue was purified by column chromatography on silica gel, thereby obtaining 19.0 g (yield: 74%) of 1,2-epoxy-3-tridecanol.

reactant | 1-tridecen-3-ol | 0.12 mol, 23.8 g | C=CC(CCCCCCCCCC)O | C13H26O
reactant | m-chloroperbenzoic acid | 0.145 mol, 25.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | benzene | 250 ml | C1=CC=CC=C1 | C6H6
solvent | hexane | 200 ml | CCCCCC | C6H14
product | 1,2-epoxy-3-tridecanol | 19.0 g, yield: 74% | O1CC1C(CCCCCCCCCC)O | C13H26O2
